US05300506
To a mixture of 1-[3-[5-amino-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (2.3g, 6.3 mmol), and sodium carbonate (0.67 g, 6.3 mmol) in 25 mL of acetone, cooled to 0° C., was added dropwise 4-chlorobutyryl chloride (0.89 g, 6.3 mmol). Additional acetone (10 mL) was added and the suspension was stirred for 19 h at 23° C. The insoluble material was separated by filtration and the acetone was removed in vacuo. The crude material was dissolved in EtOAc, and the solution was washed with water, dried (brine, MgSO4), filtered, and concentrated in vacuo to give crude 1-[3-[5-[4-chlorobutyrylamino]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (1.98 g, 4.2 mmol, 67%) as a gum. Sodium ethoxide (0.67 mL, 2.1 mmol, 21% in ethanol) was added dropwise to a solution of crude 1-[3-[5-[4-chlorobutyrylamino]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (1.0 g, 2.1 mmol) in ethanol (5 mL). After the addition, the reaction mixture was heated at 78° C. for 90 min and then cooled to room temperature. The insoluble solid was separated and the filtrate was concentrated in vacuo. Silica gel column chromatography (95:5:0.5 CH2Cl2 -MeOH-30% NH4OH) afforded 1-[3-[5-[2-pyrrolidinone-1-yl]-1-yl]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (0.33 g, 0.76 mmol, 36%). The free base (0.25 g, 0.58 mmol) was dissolved in a minimum volume of acetonitrile. A concentrated solution of oxalic acid (0.052 g, 0.58 mmol) in CH3CN was added with stirring. The precipitate was separated by filtration, washed sparingly with CH3CN, and dried at 70° C. in vacuo overnight to give the title compound (0.17 g, 56%): mp 100°-101° C. Anal. Calcd for C24H30N6O2.1.0 C2H2O4.1.15 H2O: C, 57.26; H, 6.34; N, 15.41. Found: C, 56.90; H, 5.96; N, 15.51.

reactant | Sodium ethoxide | 2.1 mmol, 0.67 mL | [O-]CC.[Na+]
reactant | 1-[3-[5-[4-chlorobutyrylamino]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine | 2.1 mmol, 1.0 g | ClCCCC(=O)NC=1C=C2C(=CNC2=CC1)CCCN1CCN(CC1)C1=NC=NC=C1OC | C24H31ClN6O2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(5-methoxy-4-pyrimidinyl)piperazine | 0.76 mmol, 0.33 g, 36% | COC=1C(=NC=NC1)N1CCNCC1 | C9H14N4O
